US04404396
Hitherto this compound has been prepared by reacting o-chloroacetophenone with the sodium or potassium salt of 2,4-dichlorophenol at a temperature of at least 120° C. in the presence of a copper catalyst to produce 2-(2,4-dichlorophenoxy)acetophenone. This is then reacted with sulphur and morpholine to afford a thioacetmorpholide which is thereafter hydrolysed.

reactant | o-chloroacetophenone | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | sodium | [Na] | Na
reactant | potassium | [K] | K
reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
catalyst | copper | [Cu] | Cu
product | 2-(2,4-dichlorophenoxy)acetophenone | ClC1=C(OCC(=O)C2=CC=CC=C2)C=CC(=C1)Cl | C14H10Cl2O2
